US06933319B2
trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl cyclohexylcarbamate
N,N-Diisopropylethylamine(199 μl) and cyclohexyl isocyanate (128 μl) were added to a stirred solution of 4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol (50 mg) in dry dichloroethane (1 ml) at room temperature under argon. The reaction mixture was heated to 40° C. for 120 h, and was partitioned between water (50 ml) and ethyl acetate (50 ml). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 ml). The combined organic extracts were dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:2 v/v) to give the title compound as a pale yellow solid (30 mg, 47%); δH (CDCl3) 0.12 (6H, s), 0.18 (6H, s), 0.90 (9H, s), 0.95 (9H, s). 1.00-2.10 (18H, m), 2.70-2.80 (1H, m), 3.36-3.50 (1H, m), 4.40-4.48 (1H, m), 4.50-4.62 (1H, m), 6.20 (1H, d), 6.32 (1H, dd), 6.86 (1H, d).

reactant | cyclohexyl isocyanate | 128 μl | C1(CCCCC1)N=C=O | C7H11NO
reactant | 4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol | 50 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)C1CCC(CC1)O | C24H44O3Si2
solvent | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
product | trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl cyclohexylcarbamate | 30 mg, 47% | C1(CCCCC1)NC(O[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C31H55NO4Si2
